US09255090B2
General Synthesis of Pyridinecarboxylic Acid (±)-52
To a solution under N2 of (E)-3-pyridin-2-yl-but-2-enoic acid benzyl ester (1.40 g, 5.53 mmol, 1.00 eq.) and (Z)-3-pyridin-2-yl-but-2-enoic acid benzyl ester (320 mg, 1.26 mmol, 0.23 eq.) in THF (50 mL), palladium on activated carbon (10 wt. %, 200 mg) was added. The flask was evacuated and refilled with H2 (3×). The black suspension was stirred at 50° C. under an H2-atmosphere for 16 hours. The black suspension was filtered through Celite. The Celite was rinsed with THF and the filtrate was concentrated in vacuo. The residue was dissolved in water (3 mL), MeCN (1 mL) and formic acid (0.5 mL). The solution was directly purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions, extremely polar method) and concentrated in vacuo to give the desired acid as a white solid.

reactant | (E)-3-pyridin-2-yl-but-2-enoic acid benzyl ester | 5.53 mmol, 1.40 g, 1.00 eq. | C(C1=CC=CC=C1)OC(\C=C(/C)\C1=NC=CC=C1)=O | C16H15NO2
reactant | (Z)-3-pyridin-2-yl-but-2-enoic acid benzyl ester | 1.26 mmol, 320 mg, 0.23 eq. | C(C1=CC=CC=C1)OC(\C=C(\C)/C1=NC=CC=C1)=O | C16H15NO2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | palladium on activated carbon | 200 mg | [Pd] | Pd
product | Pyridinecarboxylic Acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
